US05431842
To a solution of o-aminophenylboronic acid (6.73 g, 49.1 mmoles) in dioxane (100 ml) is added acetic anhydride (25.1 g, 246 mmoles). The reaction is heated at 100° C. for 17 hours. After cooling, the reaction volatiles are removed under reduced pressure to leave a thick yellow gel, which after chromatography affords o-N-acetylaminophenylboronic acid (7.33 g).

reactant | o-aminophenylboronic acid | 49.1 mmoles, 6.73 g | NC1=C(C=CC=C1)B(O)O | C6H8BNO2
reactant | acetic anhydride | 246 mmoles, 25.1 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | o-N-acetylaminophenylboronic acid | 7.33 g | C(C)(=O)NC1=C(C=CC=C1)B(O)O | C8H10BNO3
